US07312283B2
First, 6-(2-naphthyl)-6-(3-butenyl)fulvene was prepared from cyclopentadienyl Grignard reagents as follows. A 1 L round bottomed flask was charged with 1-(2-naphthyl)-4-penten-1-one, 97% (21.73 g, 100 mmol), THF (100 mL), and a stir bar, and cooled in an ice bath. Cyclopentadienyl magnesium chloride (150 mL of approximately 1 M solution in THF, 330 mmol) was added dropwise over ½ hour. The yellow solution was stirred for 2 hours in the ice bath. The yellow solution was then refluxed for 2.5 hours, during which time a red color developed. The solution was acidified by first adding 100 mLs of water, and then adding 100 mL of 1 M HCl. The product was extracted with pentane, and the pentane extracts were collected, washed with water, and dried over sodium sulfate. Elution through silica with pentane and concentration under vacuum afforded 20.25 g (73%) of the product 6-(2-naphthyl)-6-(3-butenyl)fulvene as a red oil, which was 93% pure. The major impurity was dicyclopentadiene.

reactant | 1-(2-naphthyl)-4-penten-1-one | C1=C(C=CC2=CC=CC=C12)C(CCC=C)=O | C15H14O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | Cyclopentadienyl magnesium chloride | 330 mmol, approximately 1 M, 150 mL | C1(C=CC=C1)[Mg]Cl
reactant | HCl | 1 M, 100 mL | Cl | ClH
solvent | water | 100 mLs | O | H2O
product | 6-(2-naphthyl)-6-(3-butenyl)fulvene | C1=C(C=CC2=CC=CC=C12)C(=C1C=CC=C1)CCC=C | C20H18
